US06927214B1
6,7-Dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)quinoxaline
To a solution of 2,6,7-trichloro-3-isopropylquinoxaline (51 mg, 0.18 mmol) in DMF (4 ml) was added potassium fluoride 40% wt on alumina (80 mg, 0.55 mmol) followed by 2-mercapto-5-methyl-1,3,4-thiadiazole (26 mg, 0.20 mmol). The reaction mixture was stirred at room temperature overnight. The product was purified by flash column chromatography using ethyl acetate:hexanes 1:5 affording the title compound as a white solid.

reactant | 2,6,7-trichloro-3-isopropylquinoxaline | 0.18 mmol, 51 mg | ClC1=NC2=CC(=C(C=C2N=C1C(C)C)Cl)Cl | C11H9Cl3N2
reactant | potassium fluoride | [F-].[K+]
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 0.20 mmol, 26 mg | SC=1SC(=NN1)C | C3H4N2S2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6,7-Dichloro-2-isopropyl-3-(5-methyl-1,3,4-thiadiazol-2-ylsulfanyl)quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)SC=1SC(=NN1)C | C14H12Cl2N4S2
